US05318966
3.8 g (0.0121 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-1H-benzo[e]indole were dissolved in 0.351 of 48% aqueous HBr and boiled under reflux for 5 hours. The mixture was concentrated and the residue was taken up in CH2Cl2 and extracted with a mixture of 100 ml of saturated NaHCO3 solution and 20 ml of 2N NaOH solution. The extracts were dried with MgSO4, filtered and concentrated. The foam (3.8 g) remaining as the residue was dissolved in 50 ml of ethanol. The mixture was filtered, 4.8 ml (27.84 mmol) of 5.8N ethanolic HCl solution were added dropwise thereto and the mixture was stirred at room temperature for 1 hour and at 0° for 1 hour. The separated crystals were filtered off under suction and washed with ethyl acetate. There were obtained 4.3 g (95%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2 -piperidinoethyl)-1H-benzo[e]indol-6-ol dihydrochloride as white crystals with m.p. 265°-267°.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-1H-benzo[e]indole | 0.0121 mol, 3.8 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCN2CCCCC2 | C20H30N2O
reactant | HCl | 27.84 mmol, 5.8N, 4.8 ml | Cl | ClH
solvent | HBr | Br | BrH
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(2 -piperidinoethyl)-1H-benzo[e]indol-6-ol dihydrochloride | 4.3 g, 95% | Cl.Cl.N1(CCCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | InChI=1S/C19H28N2O.2ClH/c22-19-6-4-5-15-16-9-12-21(18(16)8-7-17(15)19)14-13-20-10-2-1-3-11-20;;/h4-6,16,18,22H,1-3,7-14H2;2*1H/t16-,18+;;/m1../s1
